US06159979
N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]quinolin-4-yl Carboxamide
The title compound was prepared from quinoline-4-carboxylic acid and 4-methoxy-3-(4-methylpiperazin-1-yl)aniline (EP0533268A1) using a similar procedure to Example 1.

reactant | quinoline-4-carboxylic acid | N1=CC=C(C2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | 4-methoxy-3-(4-methylpiperazin-1-yl)aniline | COC1=C(C=C(N)C=C1)N1CCN(CC1)C | C12H19N3O
product | N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]quinolin-4-yl Carboxamide | COC1=C(C=C(C=C1)NC(=O)C1=CC=NC2=CC=CC=C12)N1CCN(CC1)C | C22H24N4O2
